US08466181B2
a) Methyl 6-(4-(1-(2-fluorophenyl)-4-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)nicotinate
A mixture of 1-(2-fluorophenyl)-5-(1H-imidazol-4-yl)-4-methyl-1H-1,2,3-triazole (268 mg, 1.1 mmol), methyl 6-chloronicotinate (190 mg, 1.1 mmol) and potassium carbonate (305 mg, 2.2 mmol) in DMF (6.0 mL) was stirred under Ar in a sealed flask and heated at 120° C. for 2 h. After cooling to room temperature the mixture was poured into water and extracted with ethyl acetate and the combined extracts washed with water, brine, dried over sodium sulphate, filtered and evaporated. Purification by chromatography (silica, 10 to 100% ethyl acetate in heptane) afforded the title compound (120 mg, 29%) as an off white solid. MS: m/e=379.2 [M+H]+.

reactant | 1-(2-fluorophenyl)-5-(1H-imidazol-4-yl)-4-methyl-1H-1,2,3-triazole | 1.1 mmol, 268 mg | FC1=C(C=CC=C1)N1N=NC(=C1C=1N=CNC1)C | C12H10FN5
reactant | methyl 6-chloronicotinate | 1.1 mmol, 190 mg | ClC1=NC=C(C(=O)OC)C=C1 | C7H6ClNO2
reactant | potassium carbonate | 2.2 mmol, 305 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 6.0 mL | CN(C)C=O | C3H7NO
product | Methyl 6-(4-(1-(2-fluorophenyl)-4-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)nicotinate | 120 mg, 29% | FC1=C(C=CC=C1)N1N=NC(=C1C=1N=CN(C1)C1=NC=C(C(=O)OC)C=C1)C | C19H15FN6O2
